US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(4-ethoxy-2,6-difluoro-benzyl) ester:
This compound was prepared from 4-ethoxy-2,6-difluoro-benzylalcohol and (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester according to the procedure described in Example 179 to give the product as a colorless oil (478 mg; 81%); MS (ISP): 429.6 (M+H)+.

reactant | 4-ethoxy-2,6-difluoro-benzylalcohol | C(C)OC1=CC(=C(CO)C(=C1)F)F | C9H10F2O2
reactant | (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C(=O)Cl)CC | C12H21ClN2O3
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(4-ethoxy-2,6-difluoro-benzyl) ester | 478 mg, 81% | C(C)OC1=CC(=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=C1)F)F | C21H30F2N2O5
